Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Flagyl
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with chronic pancreatitis, with cystic fibrosis gene, s/p 
CCY, s/p CBD sphincterotomy in the past, last flare in ___, 
who p/w LUQ pain x 6 weeks, worse x few days. Feels like someone 
is twisting a dishrag in LUQ. No radiation. Worse w/palpation 
and sitting up. +anorexia, nausea and bilious vomiting. Denies 
hematemesis, hematuria or hematochezia. Has lost 12 pounds over 
the 6 week period. Also has not had zofran in past several 
months due to insurance not covering this. GI service contacted 
in emergency room and recommended MRCP.
Vitals in ED: Pain ___ T 97.9 HR 93 BP 154/94 RR 16 , Given 
morphine 4 mg IV x 2, zofran;
Currently with ___ pain. Denies any recent alcohol, no new 
medications. Has noted increased family stress. She also has an 
autistic son at home and arranging for child care so she could 
be admitted was difficult and stressful.
Pain feels like her classic pancreatitis pain, not like her 
prior pelvic pain.
ROS: no chest pain, no shortness of breath, no cough, no 
dysuria, no rashes, no headache, no blurry vision rest of ROS 
negative in detail.
 
Past Medical History:
1. PCOS
2. Multinodular goiter s/p total thyroidectomy in 
___
3. Pituitary tumor - microprolactinoma
4. Migraines
5. Anxiety Attacks 
6. + cystic fibrosis gene 
7. Asthma  
8. Frequent Urinary Tract Infections - 5 in past year
9. Collagenous Colitis
10. Menomettorhagia
11. Chronic pelvic pain
12. Recurrent pancreatitis-- followed by Dr. ___. Has 
had ERCPs with sphincterotomy of CBD in the past, last in ___ 
which was complicated by pancreatitis.

PAST SURGICAL HISTORY: 
1. Thyroidectomy ___
2. Cholecystectomy ___
3. Hand surgery ___
4. D&C/Hysteroscopy/Diagnostic laparoscopy - lysis of adhesions
___, done for chronic pelvic pain
5. C/s x 2

 
Social History:
___
Family History:
Mother - HTN, irritable bowel
Father - alcohol, depression
Son - bipolar d/o, asperger's syndrome
Sister - OCD, ___ Disorder
PGM - breast, ovarian cancer
Aunt - breast cancer
No FHx of uterine, cervical cancer
 
Physical Exam:
T 96.2 p 69 bp 102/73 r 20 98% RA
Gen pale woman, appears tired, in nad
HEENT o/p clear, neck supple, no ___ CTA bilaterally
CV RRR no m/r/g
Abd soft + pain to palpation diffusely in upper abdomen, worse 
in LUQ, no rebound
Ext no edema, 2+ pulses
skin + tattoo on left back
Neuro alert and oriented, non focal exam.
 
Pertinent Results:
___ 07:00AM   GLUCOSE-82 UREA N-7 CREAT-0.9 SODIUM-138 
POTASSIUM-4.6 CHLORIDE-105 TOTAL CO2-21* ANION GAP-17
___ 07:00AM   ALT(SGPT)-18 AST(SGOT)-27 ALK PHOS-60 TOT 
BILI-0.6
___ 07:00AM   LIPASE-67*
___ 07:00AM URINE  UCG-NEGATIVE
___ 07:00AM   WBC-15.0* RBC-4.94 HGB-13.8 HCT-41.9 MCV-85 
MCH-28.0 MCHC-33.0 RDW-14.3
___ 07:00AM   NEUTS-69.5 ___ MONOS-4.3 EOS-4.1* 
BASOS-1.0
___ 07:00AM   ___ PTT-25.4 ___
___ 07:00AM URINE  ___ BACTERIA-FEW YEAST-NONE 
___ 07:00AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG

urine culture requested
___ 07:15AM BLOOD WBC-10.5 RBC-3.98* Hgb-11.4* Hct-36.0 
MCV-91 MCH-28.7 MCHC-31.8 RDW-14.1 Plt ___
___ 07:15AM BLOOD Glucose-68* UreaN-5* Creat-0.9 Na-139 
K-4.0 Cl-107 HCO3-24 AnGap-12
___ 07:15AM BLOOD Glucose-104* UreaN-3* Creat-0.9 Na-139 
K-4.1 Cl-104 HCO3-27 AnGap-12
___ 07:00AM BLOOD ALT-18 AST-27 AlkPhos-60 TotBili-0.6
___ 07:15AM BLOOD ALT-29 AST-29 AlkPhos-49 Amylase-57 
TotBili-1.1
___ 07:15AM BLOOD HCV Ab-NEGATIVE
.
Urine Cx ___: mixed flora
 
Brief Hospital Course:
___ yo woman with chronic pancreatitis who presented with 
abdominal pain consistent with her prior flares although there 
were no obvious triggers (no alcohol, no new meds). She did 
report increased social stressors recently but denied any 
substance use and does not take pain medications outside of 
acute flares.
.
1. Abdominal pain- Patient was made NPO, given IV fluids, 
morphine and zofran. Her case was dicussed with the GI team who 
did not feel that an MRCP was indicated at this time unless her 
symptoms did not improve with conservative management. Given 
history of tattoos, HCV ab was checked and was negative.  On 
___, pt requested to have diet advanced and became agitated 
after IV morphine/oxycodone was not acheiving pain control.  She 
was encouraged to stay and advance a diet slowly with better 
pain control but decided to leave against medical advice.  She 
already had follow up scheduled with Dr. ___ was able to 
articulate the risks of leaving.
.

 
Medications on Admission:
Omeprazole 20mg PO daily
Compazine 25mg PO qid prn nausea
Levothyroxine 125mcg PO daily
Zofran 8mg PO tid prn nausea

 
Discharge Medications:
left against medical advice, no prescriptions given
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent. 
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
left against medical advice
 
Followup Instructions:
___